US08039469B2
To a solution of 1-(4-(4-(4-aminophenyl)-6-morpholino-1,3,5-triazin-2-yl)phenyl)-3-methylurea (0.6 g, 1.5 mmol) and triethylamine(4-5 mL) in dry DMF (10 mL), phenyl 4-carbamoylphenylcarbamate (1.15 g, 4.5 mmol).) was added at room temperature and mixture was heated to 90° C. for 10 hours under nitrogen atmosphere. After cooling to room temperature reaction mixture was quenched with ice water and resulting solid was filtered to get crude product. Crude product was purified by Preparative HPLC to give 4-({[4-(4-{4-[(methylcarbamoyl)amino]phenyl}-6-morpholin-4-yl-1,3,5-triazin-2-yl)phenyl]carbamoyl}amino)benzamide (45 mg, 5.3% yield).

reactant | 1-(4-(4-(4-aminophenyl)-6-morpholino-1,3,5-triazin-2-yl)phenyl)-3-methylurea | 1.5 mmol, 0.6 g | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC | C21H23N7O2
reactant | phenyl 4-carbamoylphenylcarbamate | 4.5 mmol, 1.15 g | C(N)(=O)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C14H12N2O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-({[4-(4-{4-[(methylcarbamoyl)amino]phenyl}-6-morpholin-4-yl-1,3,5-triazin-2-yl)phenyl]carbamoyl}amino)benzamide | 45 mg, 5.3% yield | CNC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C(=O)N)C=C1 | C29H29N9O4
